US09034880B2
Preparation of 2,3,4,5-tetrahydro-2,8-dimethyl-5-(2-(quinolin-3-yl)ethyl)-1H-pyrido[4,3-b]indole (Compound 423)
The title compound is prepared from a mixture of 2,3,4,5-tetrahydro-2,8-dimethyl-1H-pyrido[4,3-b]indole, 3-vinylquinoline and KOH (5-7 equiv) in NMP at a temperature ranging between 25 deg C. to 100 deg C. The product obtained is isolated by preparative HPLC.

reactant | 2,3,4,5-tetrahydro-2,8-dimethyl-1H-pyrido[4,3-b]indole | CN1CC2=C(NC=3C=CC(=CC23)C)CC1 | C13H16N2
reactant | 3-vinylquinoline | C(=C)C=1C=NC2=CC=CC=C2C1 | C11H9N
reactant | KOH | 5-7 equiv | [OH-].[K+]
solvent | NMP | CN1CCCC1=O | C5H9NO
product | 2,3,4,5-tetrahydro-2,8-dimethyl-5-(2-(quinolin-3-yl)ethyl)-1H-pyrido[4,3-b]indole | CN1CC2=C(N(C=3C=CC(=CC23)C)CCC=2C=NC3=CC=CC=C3C2)CC1 | C24H25N3
